US09403810B2
Step 5: N-(2-Cyclohexyl-1,5-dimethyl-3-oxo-2,3-dihydro-1H-pyrazol-4-yl)-5-((1R,2S)-2-hydroxy-1-((2-methylallyl)oxy)propyl)-4-methylisoxazole-3-carboxamide
Tetrabutyl ammonium fluoride (15.16 ml, 15.16 mmol) was added dropwise to 5-((1R,2S)-2-((tert-butyldimethylsilyl)oxy)-1-((2-methylallyl)oxy)propyl)-N-(2-cyclohexyl-1,5-dimethyl-3-oxo-2,3-dihydro-1H-pyrazol-4-yl)-4-methylisoxazole-3-carboxamide (5.06 g, 7.58 mmol (assuming 76% purity)) in THF (160 ml) and the resulting mixture was stirred at room temperature for 18 h.

reactant | Tetrabutyl ammonium fluoride | 15.16 mmol, 15.16 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 5-((1R,2S)-2-((tert-butyldimethylsilyl)oxy)-1-((2-methylallyl)oxy)propyl)-N-(2-cyclohexyl-1,5-dimethyl-3-oxo-2,3-dihydro-1H-pyrazol-4-yl)-4-methylisoxazole-3-carboxamide | 7.58 mmol, 5.06 g | [Si](C)(C)(C(C)(C)C)O[C@H]([C@@H](OCC(=C)C)C1=C(C(=NO1)C(=O)NC=1C(N(N(C1C)C)C1CCCCC1)=O)C)C | C29H48N4O5Si
solvent | THF | 160 ml | C1CCOC1 | C4H8O
product | N-(2-Cyclohexyl-1,5-dimethyl-3-oxo-2,3-dihydro-1H-pyrazol-4-yl)-5-((1R,2S)-2-hydroxy-1-((2-methylallyl)oxy)propyl)-4-methylisoxazole-3-carboxamide | C1(CCCCC1)N1N(C(=C(C1=O)NC(=O)C1=NOC(=C1C)[C@@H]([C@H](C)O)OCC(=C)C)C)C | C23H34N4O5
